US06362211B1
g) 9a-(1H-Imidazol-4-yl)-1,2,3,4,4a,9a-hexahydrofluoren-9-one
9a-(2-Bromoacetyl)-1,2,3,4,4a,9a-hexahydrofluoren-9-one (6.6 g) was mixed with formamide (22 ml) and the mixture was heated at 135° C. for 30 minutes. Ammonia gas was led into the reaction mixture and the stirring was continued at 135° C. for further 4 hours. After cooling to the ambient temperature the mixture was diluted with CH2Cl2 (30 ml) and water (30 ml). The phases were separated and the aqueous phase was extracted with CH2Cl2 (30 ml). The combined organic phases were mixed with water (60 ml) and the pH was adjusted to 1 with concentrated HCl solution. The layers were separated and the aqueous phase was washed with CH2Cl2 (30 ml). The aqueous phase was mixed with CH2Cl2 (60 ml) and the pH was adjusted to 11.5-13.5 with 48% NaOH solution. The phases were separated and the aqueous phase was extracted with CH2Cl2 (20 ml). The combined organic phases were washed with water (50 ml), dried over Na2SO4 and evaporated. The yield was 2.2 g.

reactant | 9a-(2-Bromoacetyl)-1,2,3,4,4a,9a-hexahydrofluoren-9-one | 6.6 g | BrCC(=O)C12C(C3=CC=CC=C3C2CCCC1)=O | C15H15BrO2
reactant | formamide | 22 ml | C(=O)N | CH3NO
reactant | Ammonia | N | H3N
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
solvent | water | 30 ml | O | H2O
product | 9a-(1H-Imidazol-4-yl)-1,2,3,4,4a,9a-hexahydrofluoren-9-one | N1C=NC(=C1)C12C(C3=CC=CC=C3C2CCCC1)=O | C16H16N2O
